US03954757
A solution of 8.6 g of 1-methylindole-2-carboxylic acid in 250 ml of warm methanol is added to a well-stirred solution of 25 g of potassium iodide and 12.2 g of iodine in 75 ml of water and treated with a solution of 5.8 g of 1,4,5,6-tetrahydro-2-pyrimidinethiol. The reaction is carried out and then worked up in the manner described under Example 1 to yield 1-methyl-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide which melts at 227° (with decomposition) after recrystallization from a mixture of methanol and ethyl acetate.

reactant | 1-methylindole-2-carboxylic acid | 8.6 g | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | potassium iodide | 25 g | [I-].[K+]
reactant | iodine | 12.2 g | II | I2
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 5.8 g | N1C(=NCCC1)S | C4H8N2S
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 75 ml | O | H2O
product | 1-methyl-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide | I.CN1C(=C(C2=CC=CC=C12)SC=1NCCCN1)C(=O)O | InChI=1S/C14H15N3O2S.HI/c1-17-10-6-3-2-5-9(10)12(11(17)13(18)19)20-14-15-7-4-8-16-14;/h2-3,5-6H,4,7-8H2,1H3,(H,15,16)(H,18,19);1H
